US05736556
(1R,2R,3S)-2-Formyl-3-(3,4-dichlorophenyl)tropane
To a solution of oxalylchloride (2.3 ml) in absolute methylene chloride (60 ml) at -60° C., a solution of dimethylsulphoxide (4 ml) in absolute methylene chloride (10 ml) was added over 10 minutes. The mixture was stirred for 10 minutes and a suspension of (1R,2R,3S)-2-hydroxymethyl-3-(3,4-dichlorophenyl)tropane (7 g, 23.3 mmol) in absolute methylene chloride (400 ml) was added over 15 minutes. The resulting mixture was stirred for 10 minutes followed by addition of triethylamine (17 ml, 0.12 mmol) and stirring for another 10 minutes. The reaction mixture was allowed to reach ambient temperature and was quenched by addition of water (200 ml). The organic phase was washed twice with water, dried and concentrated in vacuo yielding the title compound as white crystals, m.p. 131°-135° C.

reactant | oxalylchloride | 2.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 4 ml | CS(=O)C | C2H6OS
reactant | (1R,2R,3S)-2-hydroxymethyl-3-(3,4-dichlorophenyl)tropane | 23.3 mmol, 7 g | OC[C@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)N2C | C15H19Cl2NO
reactant | triethylamine | 0.12 mmol, 17 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | (1R,2R,3S)-2-Formyl-3-(3,4-dichlorophenyl)tropane | C(=O)[C@H]1[C@H]2CC[C@@H](C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)N2C | C15H17Cl2NO
